US07741352B2
4-(4-Fluoro-benzylamino)-2-(2-methoxy-ethoxymethoxy)-benzonitrile
To a solution of 4-amino-2-(2-methoxy-ethoxymethoxy)-benzonitrile (666 mg; 3 mmol) in 1,2-dichloroethan (15 mL) was added 4-fluorobenzaldehyd (496 mmol; 4 mmol) and carefully sodium triacetoxyborohydride (933 mg; 4.4 mmol). The mixture was stirred at 60° C. for 6 hours. The reaction mixture was added 1 M NaOH (aq.), dried by filtering through a silicone filter, evaporated onto SiO2 and purified by column chromatography (SiO2-heptane/EtOAc=2:1) to yield 700 mg pure product.

reactant | 4-amino-2-(2-methoxy-ethoxymethoxy)-benzonitrile | 3 mmol, 666 mg | NC1=CC(=C(C#N)C=C1)OCOCCOC | C11H14N2O3
reactant | 4-fluorobenzaldehyd | 496 mmol | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium triacetoxyborohydride | 4.4 mmol, 933 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1 M | [OH-].[Na+]
solvent | 1,2-dichloroethan | 15 mL | ClCCCl | C2H4Cl2
product | 4-(4-Fluoro-benzylamino)-2-(2-methoxy-ethoxymethoxy)-benzonitrile | 700 mg | FC1=CC=C(CNC2=CC(=C(C#N)C=C2)OCOCCOC)C=C1 | C18H19FN2O3
